US04264595
Production of 1-(2-carboxyethyl)-1H-tetrazole-5-thiol
A mixture of 3.84 g of 1-(2-benzyloxycarbonylethyl)-1H-tetrazole-5-thiol, 30 ml of tetrahydrofuran and 29 ml of 1 N-sodium hydroxide was allowed to stand at room temperature for 2 hours. The reaction mixture was washed with ethyl acetate and the water layer was adjusted to pH 1 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride, dried and concentrated to dryness. By the above procedure there were obtained 1.9 g of powder of the captioned compound.

reactant | 1-(2-benzyloxycarbonylethyl)-1H-tetrazole-5-thiol | 3.84 g | C(C1=CC=CC=C1)OC(=O)CCN1N=NN=C1S | C11H12N4O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2-carboxyethyl)-1H-tetrazole-5-thiol | 1.9 g | C(=O)(O)CCN1N=NN=C1S | C4H6N4O2S
